US07524845B2
A mixture of 1-{2-[4-(4-Chloro-2-fluoro-5-methoxy-phenyl)-2-(S)-methyl-piperazin-1-yl]-2-oxo-ethyl}-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile (1.6 g, 3.6 mmol, 1 eq), NH2OH.HCl (0.84 g, 10.8 mmol, 3 eq), TEA (1.5 ml), and ethanol (10 ml) was stirred at 65° C. overnight. The reaction solution was concentrated in vacuo, and dissolved in ethyl acetate, washed with brine, and concentrated to provide 1-{2-[4-(4-Chloro-2-fluoro-5-methoxy-phenyl)-2-methyl-piperazin-1-yl]-2-oxo-ethyl}-N-hydroxy-1H-pyrazolo[3,4-b]pyridine-3-carboxamidine (1.2 g).

reactant | 1-{2-[4-(4-Chloro-2-fluoro-5-methoxy-phenyl)-2-(S)-methyl-piperazin-1-yl]-2-oxo-ethyl}-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile | 3.6 mmol, 1.6 g, 1 eq | ClC1=CC(=C(C=C1OC)N1C[C@@H](N(CC1)C(CN1N=C(C=2C1=NC=CC2)C#N)=O)C)F | C21H20ClFN6O2
reactant | NH2OH.HCl | 10.8 mmol, 0.84 g, 3 eq | NO.Cl
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-{2-[4-(4-Chloro-2-fluoro-5-methoxy-phenyl)-2-methyl-piperazin-1-yl]-2-oxo-ethyl}-N-hydroxy-1H-pyrazolo[3,4-b]pyridine-3-carboxamidine | 1.2 g | ClC1=CC(=C(C=C1OC)N1CC(N(CC1)C(CN1N=C(C=2C1=NC=CC2)C(=N)NO)=O)C)F | C21H23ClFN7O3
